US06500863B1
N-(4-Pyridinyl)-2,6dichloro-3-nitrobenzenesulfonamide
Following the general procedure for sulfonamide formation outlined in example 15, 2,6-dichloro-3-nitrobenzenesulfonyl chloride (500 mg, 1.72 mmol), 4-aminopyridine (165 mg,1.75 mmol) and triethylamine (0.36mL,2.58 mmol) were reacted to form the desired product (446 mg, 76%). EI-MS m/z 346(M-H)−.

reactant | 2,6-dichloro-3-nitrobenzenesulfonyl chloride | 1.72 mmol, 500 mg | ClC1=C(C(=CC=C1[N+](=O)[O-])Cl)S(=O)(=O)Cl | C6H2Cl3NO4S
reactant | 4-aminopyridine | 1.75 mmol, 165 mg | NC1=CC=NC=C1 | C5H6N2
reactant | triethylamine | 2.58 mmol, 0.36mL | C(C)N(CC)CC | C6H15N
product | N-(4-Pyridinyl)-2,6dichloro-3-nitrobenzenesulfonamide | 446 mg, 76% | N1=CC=C(C=C1)NS(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])Cl | C11H7Cl2N3O4S
